US06498251B1
Synthesis Example 6a 2-t-Butoxycarbonyl-9-methyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole
A 66 mg (1.65 mmol) portion of sodium hydride was added to 10 ml of DMF solution containing 300 mg (1.10 mmol) of 2-t-butoxycarbonyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole and stirred at room temperature for 30 minutes, and then 103 μl (1.65 mmol) of methyl iodide were added thereto and stirred overnight at room temperature. The reaction solution was extracted with ethyl acetate and washed with water. After drying (Na2SO4), the solvent was removed by evaporation under a reduced pressure and the resulting oil was purified by a silica gel column chromatography (60 cc; elution by ethyl acetate-hexane=1:5) to obtain 200 mg of the title compound (63% in yield).

reactant | sodium hydride | [H-].[Na+]
reactant | 2-t-butoxycarbonyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | 1.10 mmol, 300 mg | C(C)(C)(C)OC(=O)N1CC=2NC3=CC=CC=C3C2CC1 | C16H20N2O2
reactant | methyl iodide | 1.65 mmol, 103 μl | CI | CH3I
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-t-Butoxycarbonyl-9-methyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | 200 mg, 63% | C(C)(C)(C)OC(=O)N1CC=2N(C3=CC=CC=C3C2CC1)C | C17H22N2O2
